US04958026
18.7 g of N-[2-(3-benzyloxy-4-nitrophenyl)ethenyl]-N,N-dimethylamine and 21.3 g of hydroxylamineorthosulfonic acid in 420 ml of water are stirred for 3 days at room temperature. The thus-separated solid product is chromatographed on silica gel with cyclohexane/acetic acid (1:1), thus obtaining 7.7 g of (3-benzyloxy-4-nitrophenyl)acetonitrile, mp 73°-85° C.

reactant | N-[2-(3-benzyloxy-4-nitrophenyl)ethenyl]-N,N-dimethylamine | 18.7 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1[N+](=O)[O-])C=CN(C)C | C17H18N2O3
solvent | water | 420 ml | O | H2O
product | (3-benzyloxy-4-nitrophenyl)acetonitrile | 7.7 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1[N+](=O)[O-])CC#N | C15H12N2O3
